US07696231B2
4-Methoxy-N′-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-bromo-1H-indole-2,3-dione in acetic acid was added 4-methoxybenzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 53 mg of the title compound (57%) as a orange powder in 93% purity by HPLC (Rt: 4.11, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-bromo-1H-indole-2,3-dione | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 4-methoxybenzohydrazide | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Methoxy-N′-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide | 53 mg, 57% | COC1=CC=C(C(=O)NN=C2C(NC3=CC=C(C=C23)Br)=O)C=C1 | C16H12BrN3O3
